US07691868B2
4-[3-(2-acetylamino-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-4-chloro-phenylethynyl]-piperidine-1-carboxylic acid isopropylamide
50 mg (0.11 mmol) N-[8-(2-chloro-5-piperidin-4-ylethynyl-phenyl)-4,5-dihydro-thiazolo[4, 5-h]quinazolin-2-yl]-acetamide are suspended in 1 mL acetonitrile and combined successively with 17 μL triethylamine and 22 μM isopropyl isocyanate. The yellow suspension is stirred for three hours at ambient temperature and then washed with aqueous potassium carbonate solution. The organic phase is evaporated down and the residue is purified by RP-HPLC. Yield: 30 mg yellow solid.

reactant | N-[8-(2-chloro-5-piperidin-4-ylethynyl-phenyl)-4,5-dihydro-thiazolo[4, 5-h]quinazolin-2-yl]-acetamide | 0.11 mmol, 50 mg | ClC1=C(C=C(C=C1)C#CC1CCNCC1)C1=NC=2C3=C(CCC2C=N1)N=C(S3)NC(C)=O | C24H22ClN5OS
reactant | triethylamine | 17 μL | C(C)N(CC)CC | C6H15N
reactant | isopropyl isocyanate | 22 μM | C(C)(C)N=C=O | C4H7NO
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 4-[3-(2-acetylamino-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-4-chloro-phenylethynyl]-piperidine-1-carboxylic acid isopropylamide | C(C)(C)NC(=O)N1CCC(CC1)C#CC1=CC(=C(C=C1)Cl)C1=NC=2C3=C(CCC2C=N1)N=C(S3)NC(C)=O | C28H29ClN6O2S
